US04985419
A suspension of 10-[(2RS)-1-ethylamino-2-propyl]-2-phenothiazinecarbonitrile (4.5 g), 2-iodopropane (7.2 cc) and sodium carbonate (4.6 g) in dry dimethylformamide (60 cc) is heated for 34 hours at a temperature in the region of 150° C. After cooling, the mixture is concentrated to dryness under reduced pressure (5 mm Hg; 0.68 kPa) at 40° C. The residue is taken up with ethyl acetate (200 cc), washed with distilled water (3×100 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual brown oil is purified by chromatography on a column (height: 25 cm; diameter: 4 cm) of silica gel (0.04-0.063 mm) under a slight excess pressure of nitrogen (40 kPa), eluting with a mixture (75:25 by volume) (500 cc) of ethyl acetate and cyclohexane and collecting 60-cc fractions. The combined fractions 3 to 7 are concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. 10-{(2RS)-1-[N-Ethyl-N-(1-methylethyl)amino]-2-propyl}-2-phenothiazinecarbonitrile (2.37 g) is thereby obtained in the form of an orange oil.

reactant | 10-[(2RS)-1-ethylamino-2-propyl]-2-phenothiazinecarbonitrile | 4.5 g | C(C)NCC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C18H19N3S
reactant | 2-iodopropane | 7.2 cc | IC(C)C | C3H7I
reactant | sodium carbonate | 4.6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 60 cc | CN(C=O)C | C3H7NO
product | 10-{(2RS)-1-[N-Ethyl-N-(1-methylethyl)amino]-2-propyl}-2-phenothiazinecarbonitrile | 2.37 g | C(C)N(C(C)C)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C21H25N3S
